US03997591
A mixture of 79.4 g. (225 mmole) of 2-(2-bromoacetamido)-5-chlorobenzophenone, 25 g. of 2-aminopropanol hydrochloride, 95 ml. of triethylamine and 500 ml. of ethanol was stirred overnight at room temperature, and then at reflux for 5 hours. The solution was concentrated under reduced pressure to a residue which was partitioned between ether and water. The organic layer was washed with water, dried and treated with hydrogen chloride to give 18 g. of a colorless solid. Recrystallizations from ethanol-ether gave prisms of 5-chloro-2-[2-hydroxy-2-propylamino)acetimido]-benzophenone, hydrochloride, m.p. 183°-186°.

reactant | 2-(2-bromoacetamido)-5-chlorobenzophenone | 225 mmole | BrCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C15H11BrClNO2
reactant | 2-aminopropanol hydrochloride | Cl.NC(CO)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | benzophenone, hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | InChI=1S/C13H10O.ClH/c14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;/h1-10H;1H
